US08071807B2
As described for Example 21, [3-(2-bromomethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester and 2-propanethiol were reacted to provide [3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester. Reduction to amine and then treatment of the amine with pivaloyl chloride was carried out to provide {3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-5-trifluoromethyl-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester provided the acid.

reactant | [3-(2-bromomethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C18H15BrF3NO5
reactant | 2-propanethiol | CC(C)S | C3H8S
product | [3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)C)=O | C21H22F3NO5S
